US08623340B2
365 g of 5-Phenyl-2-n-propyl-pentanol of Synthesis Example 1.2 were combined with 10 g Ru on activated carbon (Ru content: 5 wt. %) and hydrogenated at a hydrogen pressure of 20 bar and at a temperature of 120° C. After 5-7 hours the reaction was finished. The catalyst was removed and the product distilled. 345 g (content: 98.2%) of 5-cyclohexyl-2-n-propyl-pentanol are obtained. Yield: 90.8% of theoretical.

reactant | 5-Phenyl-2-n-propyl-pentanol | 365 g | C1(=CC=CC=C1)CCCC(CO)CCC | C14H22O
reactant | hydrogen | [H][H] | H2
product | 5-cyclohexyl-2-n-propyl-pentanol | 345 g, 98.2% | C1(CCCCC1)CCCC(CO)CCC | C14H28O
